US08748626B2
To a solution of (±)-N-((5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)methylene)-2-methylpropane-2-sulfinamide (770 mg, 1.91 mmol) in anhydrous THF (7.6 mL) was slowly added tBuLi (1.7 M solution in pentane, 3.34 mL, 5.74 mmol) at −78° C. After the reaction mixture was stirred at −78° C. for 3 h, the reaction was quenched with MeOH (2 mL) followed by addition of saturated NH4Cl solution (10 mL). Upon warming up to room temperature, the reaction mixture was stirred for 30 min and then extracted with EtOAc (50 mL). The organic layer was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated. The crude product was purified by automatic column chromatography to yield (±)-N-(1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropyl)-2-methylpropane-2-sulfinamide (340 mg, 38.6%) as a pale yellow solid. 1H NMR (CDCl3, 400 MHz): δ 7.64 (1H, m), 7.38-7.27 (4H, m), 7.27-7.21 (1H, m), 7.12-6.99 (2H, m), 4.24 (1H, m), 4.12 (2Hm), 3.92 (1H, m), 1.27 (9H, s), 0.95 (9H, s). LC/MS (uplc): MH+ 461.2, 1.34 min.

reactant | (±)-N-((5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)methylene)-2-methylpropane-2-sulfinamide | 1.91 mmol, 770 mg | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)C=NS(=O)C(C)(C)C | C21H20F2N2O2S
reactant | tBuLi | 5.74 mmol, 1.7 M, 3.34 mL | [Li]C(C)(C)C
solvent | THF | 7.6 mL | C1CCOC1 | C4H8O
product | (±)-N-(1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropyl)-2-methylpropane-2-sulfinamide | 340 mg, 38.6% | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)C(C(C)(C)C)NS(=O)C(C)(C)C | C25H30F2N2O2S
